US08624056B2
Piperidine (100 μL, 1.01 mmol) was added to a suspension of 3,4-bis(difluoromethoxy)benzaldehyde (240 mg, 1.01 mmol) and 2-[(carboxyacetyl)amino]-5-bromobenzoic acid (277 mg, 0.92 mmol) in toluene (5.0 mL). The reaction flask was fitted with a Dean-Stark apparatus and heated to reflux for 30 min. The reaction was then cooled to rt and the resulting suspension was filtered and washed with toluene. The piperidinium salt was dissolved in MeOH (5 mL) and water (2 mL) and the solution was acidified with 50% aqueous AcOH. The crude product was collected by filtration and recrystallised from EtOH/water and filtered to afford (E)-2-[[3,4-bis(difluoromethoxy)phenyl)-1-oxo-2-propenyl]amino]-5-bromobenzoic acid (198 mg, 45%) as a colourless crystalline solid; mp 223-226° C.; δH (400 MHz, DMSO-d6) 6.96 (d, J=15.6 Hz, 1H, CH═CHCO), 7.26 (t, J=73 Hz, 1H, OCHF2), 7.27 (t, J=73 Hz, 1H, OCHF2), 7.38 (d, J5′,6′=8.0 Hz, 1H, H5′), 7.61 (d, J=15.6 Hz, 1H, CH═CHCO), 7.68 (dd, J5′,6′=8.0, J2′,6′=1.6 Hz, 1H, H6′), 7.78 (d, J2′,6′=1.6 Hz, 1H, H2′), 7.80 (dd, J3,4=9.2, J4,6=2.8 Hz, 1H, H4), 8.08 (d, J4,6=2.8 Hz, 1H, H6), 8.55 (d, J3,4=9.2 Hz, 1H, H3), 11.28 (s, 1H, NH); δC (100 MHz, DMSO-d6) 116.3 (t, J=259 Hz), 116.5 (t, J=259 Hz), 116.5, 119.3, 120.1, 120.8, 122.6, 123.5, 126.7, 132.7, 133.2, 136.4, 139.7, 139.8, 141.9, 142.8, 163.6, 168.0; HRMS (ESL) calculated for C18H12BrF4NO5 [M-H ]− 475.9751, found 475.9752; νmax 1102, 1152, 1509, 1595, 1673, 1694, 3128 cm−1.

reactant | Piperidine | 1.01 mmol, 100 μL | N1CCCCC1 | C5H11N
reactant | 3,4-bis(difluoromethoxy)benzaldehyde | 1.01 mmol, 240 mg | FC(OC=1C=C(C=O)C=CC1OC(F)F)F | C9H6F4O3
reactant | 2-[(carboxyacetyl)amino]-5-bromobenzoic acid | 0.92 mmol, 277 mg | C(=O)(O)CC(=O)NC1=C(C(=O)O)C=C(C=C1)Br | C10H8BrNO5
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromobenzoic acid | 198 mg, 45% | BrC=1C=CC=C(C(=O)O)C1 | C7H5BrO2
